US08183231B2
((R)-3-{(S)-2-[(S)-2-Amino-3-(1H-imidazol-4-yl)-propionylamino]-3-methyl-butyrylamino}-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid
The title compound was prepared substantially following the procedures as set forth in Method B, Example 12, and employing ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride and N-Cbz-His-Val-OH as the starting materials, which yielded the title compound as a white powder. 1H NMR (CD3OD, 300 MHz): δ 8.47 (s, 1H), 7.25 (s, 1H), 4.25 (t, 1H), 4.10 (d, 1H), 4.0 (m, 1H), 3.6-3.5 (dd, 1H), 3.10-3.00 (m, 2H), 2.09-2.02 (m, 1H), 1.95-1.86 (m, 2H), 1.80-1.54 (m, 8H), 1.41-1.02 (m, 3H), 1.0-0.95 (m, 9H). 31P NMR (CD3OD, 300 MHz): δ 42.66. LCMS m/z: [M+H]+=472.

reactant | ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CN)O
reactant | N-Cbz-His-Val-OH | N([C@@H](CC1=CNC=N1)C(=O)N[C@@H](C(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H24N4O5
product | ((R)-3-{(S)-2-[(S)-2-Amino-3-(1H-imidazol-4-yl)-propionylamino]-3-methyl-butyrylamino}-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid | N[C@H](C(=O)N[C@H](C(=O)NC[C@H](CP(O)(=O)CC1CCCCC1)O)C(C)C)CC=1N=CNC1 | C21H38N5O5P
